US05310757
EXAMPLE 5: (CIS) 3,3,5-TRIMETHYLCYCLOHEXYL 2-(3-(2,5-DIMETHYLPHENOXY)PROPYL)-2-METHYLPROPIONATE
25 g of 2-(3-(2,5-dimethylphenoxy)propyl)-2-methylpropionyl chloride are added to 14 g of (cis) 3,3,5-trimethylcyclohexanol dissolved in 100 ml of toluene. The mixture is refluxed for three hours and then evaporated to dryness. The evaporation residue is chromatographed on a silica column with chloroform. The title product is obtained in the amorphous state and in thin layer chromatography gives a single spot under the above conditions; the characteristic bands of its IR spectrum run in KBr are as follows: 3000-2850 cm-1, group of fine bands; 1730 cm-1, strong band for the carbonyl.

reactant | 2-(3-(2,5-dimethylphenoxy)propyl)-2-methylpropionyl chloride | 25 g | CC1=C(OCCCC(C(=O)Cl)(C)C)C=C(C=C1)C | C15H21ClO2
reactant | (cis) 3,3,5-trimethylcyclohexanol | 14 g | CC1(C[C@H](C[C@H](C1)C)O)C | C9H18O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (CIS) 3,3,5-TRIMETHYLCYCLOHEXYL 2-(3-(2,5-DIMETHYLPHENOXY)PROPYL)-2-METHYLPROPIONATE | CC1=C(OCCCC(C(=O)O[C@@H]2CC(C[C@@H](C2)C)(C)C)(C)C)C=C(C=C1)C | C24H38O3
